US06344570B1
a) 4-Nitro-3-methoxyphenol
A solution of sodium hydroxide was added to a stirred solution of 4-fluoro-2-methoxynitrobenzene (11.1 g.) in DMSO (60 ml.) at ambient temperature and the mixture was heated at 85 degC. for 2.5 hr. The cooled solution was diluted with water (100 ml.) and extracted with ether (3×100 ml.) The combined ethereal solution was extracted with 2n NaOH (3×75 ml.) and the combined aqueous phase brought to pH 2 by the addition of 2N HCl. The precipitated product was collected and washed with water. The product was dried over phosphorous pentoxide. Yield 7.4 g. m/Z 170.1(M+H). It was used without further purification in the next step (cf Example 1c).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-fluoro-2-methoxynitrobenzene | 11.1 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 4-Nitro-3-methoxyphenol | [N+](=O)([O-])C1=C(C=C(C=C1)O)OC | C7H7NO4
